US09353113B2
tert-butyl 1-[2-(benzyloxy)-2-oxoethyl]piperidine-4-carboxylate
To a suspension (39 mL) of tert-butyl piperidine-4-carboxylate (2.6 g) in acetonitrile was added diisopropylethylamine (4.4 mL), subsequently, benzyl bromoacetate (2.0 mL) was added at room temperature in portions, and the mixture was stirred for 4 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. This was washed with an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:3→0:1) to obtain the title compound (3.4 g) having the following physical property values.

reactant | tert-butyl piperidine-4-carboxylate | 39 mL, 2.6 g | N1CCC(CC1)C(=O)OC(C)(C)C | C10H19NO2
reactant | diisopropylethylamine | 4.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl bromoacetate | 2.0 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 1-[2-(benzyloxy)-2-oxoethyl]piperidine-4-carboxylate | 3.4 g | C(C1=CC=CC=C1)OC(CN1CCC(CC1)C(=O)OC(C)(C)C)=O | C19H27NO4
